US08445530B2
2-(3-Bromo-4-methoxy-benzoylamino)-indane-2-carboxylic acid methyl ester
3-Bromo-4-methoxybenzoic acid (22.8 g, 98.8 mmol) was dissolved in thionyl chloride (42 ml) and stirred at 60° C. for 30 min. The volatiles were evaporated in vacuo and the residue was stripped with dioxane. The obtained acid chloride was dissolved in DCM (50 ml). 2-Amino-indane-2-carboxylic acid methyl ester hydrochloride (15.0 g, 65.9 mmol) was suspended in DCM (100 ml), EDIA (10.2 g, 79.1 mmol) was added, the mixture was cooled in an ice bath, and the solution of the acid chloride was slowly added. The mixture was stirred overnight at room temperature and evaporated to dryness. The residue was purified by silica gel chromatography (DCM/methanol gradient) and subsequent crystallization from EA to give 21.8 g of the title compound.

reactant | 3-Bromo-4-methoxybenzoic acid | 98.8 mmol, 22.8 g | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | 2-Amino-indane-2-carboxylic acid methyl ester hydrochloride | 65.9 mmol, 15.0 g | Cl.COC(=O)C1(CC2=CC=CC=C2C1)N
solvent | thionyl chloride | 42 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Bromo-4-methoxy-benzoylamino)-indane-2-carboxylic acid methyl ester | 21.8 g | COC(=O)C1(CC2=CC=CC=C2C1)NC(C1=CC(=C(C=C1)OC)Br)=O | C19H18BrNO4
